reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1](=[C:5](/[C:4]([O:3][C:2](=[O:6])[H:8])([H:9])[H:10])[H:11])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],55.6515645330317
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[C:3]([C:4]([H:13])([H:14])[H:15])(=[C:5]=[N:6][H:8])[H:12],69.1257388811515
[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C+:1]([N:2]([C:3]([C:4]([H:12])([H:13])[H:14])=[C:5]=[N-:6])[H:10])([H:7])[H:8].[H:9][H:11],67.4611046218091
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7]>>[O-:1][C:2](=[C:3]=[O+:4][C:5]#[C:6][H:8])[H:7],103.98494589730801
[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[N:1]([C:5]1=[N:6][C:2]12[C:3]([H:9])([H:10])[C:4]2([H:11])[H:12])([H:7])[H:8],103.66717227451299
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[C:4](/[C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])[H:11])([H:8])([H:9])[H:10].[H:12][H:13],95.8130566855076
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[N:5]([C+:6]([O-:7])[H:18])[H:17])([H:11])[H:12],114.911610899667
[C@@:1]12([H:7])[C:2]([H:8])=[C:6]([H:11])[C@:5]1([H:10])[N:4]=[C:3]2[H:9]>>[C@:1]12([H:7])[C@:2]3([H:8])[C@@:3]1([H:9])[N:4]1[C@@:5]2([H:10])[C@:6]31[H:11],90.94316049983479
[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](=[C:4]([H:12])[H:13])([H:10])[H:11].[C:5](=[O:6])([H:7])[H:14].[O:1]=[C:2]([H:8])[H:9],94.2287155389513
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10].[C:2](=[N:3][H:13])([H:11])[H:12],116.333557346697
[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:4](=[C:3])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],57.133114045770704
[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]=[C:4]([C:5](=[O:6])[H:10])[H:8])[H:9])[H:7],66.190503379338
[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C-:2]=[C:3]([C+:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],91.0531573956034
[O:1]=[C:2]([N:3]=[N+:4]=[N-:5])[H:6]>>[C:2](#[N:3])[H:6].[O:1]=[N+:5]=[N-:4],56.206148745605795
[C:1]([C:2]([C-:3]([N:5]([C:6](=[O+:7][C:4]([H:14])([H:15])[H:16])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],28.711074442315905
[O+:1](=[C-:2][H:7])[c:5]1[c:3](=[O:4])[c:6]1[H:8]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7],19.557802332647995
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([C:4](=[C:5]=[N:6][H:8])[H:13])([H:11])[H:12])[H:10])([H:7])[H:9],53.8812093256846
[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[N:3]2[C:4]([H:9])([H:13])[C:5]([H:14])=[N:6][C@:7]12[H:15]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],63.04580279374251
[C:1]([H:8])([H:9])([H:10])[H:12].[C:2](=[O:3])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],76.14201718138392
[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[C:3](=[C:4]=[C:5]([H:8])[H:12])([H:10])[H:11].[O:1]=[C:2]([C:6]#[C:7][H:13])[H:9],41.1329828220026
[C:1]([C:2](=[O:3])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([O:3][H:7])[C:4]#[N:5])([H:6])[H:8],68.21071624976979
[O:1]([C@:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5][C:6]1([H:8])[H:14])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],38.9840586200759
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1](=[N:2][C@@:3]([N:4]([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],100.57299320145201
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O+:7]=[C:6]([N:5]([C-:3]([C:4]([H:14])([H:15])[H:16])[H:13])[H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],101.38488311875
[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C@@:5]2([H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:6]([H:13])([H:14])[C:5]([H:12])=[C:7]1[H:15],88.0614014996232
